US06340757B1
To a solution in which 5.52 g of ethyl 4-fluoro-4-methyl-3-oxopentanoate had been dissolved in 20 ml of methanol were added 11.6 g of a 28 % sodium methoxide methanol solution and 4.0 g of formamidine acetate, and the mixture was stirred at 50° C. for 6 hours. The mixture was cooled to 10° C. or lower, and 7.1 g of conc. hydrochloric acid was added to the reaction mixture and the reaction mixture was concentrated under reduced pressure. To the concentrated solution was added 100 ml of acetone, and the resulting mixture was stirred at 60° C. for 30 minutes and then, insolubles were removed by filtration. The filtrate was concentrated under reduced pressure and the concentrated solution was recrystallized from 20 ml of acetone to obtain 2.0 g of 6-(1-fluoro-1-methylethyl)-4-pyrimidone (isolated yield: 64.0%).

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | formamidine acetate | 4.0 g | C(C)(=O)O.C(=N)N
reactant | hydrochloric acid | 7.1 g | Cl | ClH
reactant | ethyl 4-fluoro-4-methyl-3-oxopentanoate | 5.52 g | FC(C(CC(=O)OCC)=O)(C)C | C8H13FO3
solvent | methanol | 20 ml | CO | CH4O
product | 6-(1-fluoro-1-methylethyl)-4-pyrimidone | 2.0 g, yield: 64.0% | FC(C)(C)C1=CC(NC=N1)=O | C7H9FN2O
